US09403818B2
Preparation of methyl 8-(1-(tert-butoxycarbonyl)-1H-pyrrol-3-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(1-(tert-butoxycarbonyl)-1H-pyrrol-3-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (100 mg, 0.34 mmol) and tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrole-1-carboxylate (151.0 mg, 0.51 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 94:6) afforded the title compound as a yellow solid (89 mg, 61%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.34 mmol, 100 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrole-1-carboxylate | 0.51 mmol, 151.0 mg | CC1(OB(OC1(C)C)C1=CN(C=C1)C(=O)OC(C)(C)C)C | C15H24BNO4
product | methyl 8-(1-(tert-butoxycarbonyl)-1H-pyrrol-3-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 89 mg, 61% | C(C)(C)(C)OC(=O)N1C=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C24H26N2O5
